US09428499B2
Step a: Synthesis of 3-((tert-butoxycarbonyl)amino)benzoic acid
To a stirred solution of 3-aminobenzoic acid (5 g, 36.5 mmol) in water (40.0 ml) was added aq. solution of sodium hydroxide (2.187 g, 54.7 mmol) followed by (BOC)2O (10.16 ml, 43.8 mmol) in dioxane (20.0 ml) under ice cooling. The mixture was stirred under ice cooling for 30 min and further at room temperature for 12 hrs. To the reaction mixture ethyl acetate (50.0 ml) was added and the aq. layer was separated. The aq. layer was acidified up to pH 4 using 2N HCl and precipitated crystals were collected by filtration (7.2 gm).

reactant | 3-aminobenzoic acid | 36.5 mmol, 5 g | NC=1C=C(C(=O)O)C=CC1 | C7H7NO2
reactant | sodium hydroxide | 54.7 mmol, 2.187 g | [OH-].[Na+]
reactant | (BOC)2O | 43.8 mmol, 10.16 ml | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
reactant | ethyl acetate | 50.0 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 40.0 ml | O | H2O
solvent | dioxane | 20.0 ml | O1CCOCC1 | C4H8O2
product | 3-((tert-butoxycarbonyl)amino)benzoic acid | C(C)(C)(C)OC(=O)NC=1C=C(C(=O)O)C=CC1 | C12H15NO4
